US07375204B2
4-Bromo-1-isoquinolinol
Bromine (1.78 ml, 34.5 mmol) was added to an ice-cooled solution of 1-hydroxyisoquinoline (5.01 g, 34.5 mmol) in acetic acid (50 ml), and this reaction mixture was stirred at room temperature for 2 hours. Water, ethyl acetate, and tetrahydrofuran were added, and the resulting reaction mixture was filtered through filter paper. The organic layer was washed with saturated brine and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate and hexane to give the title compound (6.19 g).

reactant | Bromine | 34.5 mmol, 1.78 ml | BrBr | Br2
reactant | 1-hydroxyisoquinoline | 34.5 mmol, 5.01 g | OC1=NC=CC2=CC=CC=C12 | C9H7NO
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Bromo-1-isoquinolinol | 6.19 g | BrC1=CN=C(C2=CC=CC=C12)O | C9H6BrNO
